US09422240B2
A suspension of methyl 3-hydroxy-4-(trifluoromethyl)benzoate (see WO 2007/129745) (2.00 g), sodium chlorodifluoroacetate (2.08 g) and potassium carbonate (2.51 g) in N,N-dimethylformamide (30.0 mL) was stirred at 100° C. for 6 hours. After cooling the reaction mixture to room temperature, water was added to it and two extractions were conducted with ethyl acetate. The combined organic layers were washed with water three times and thereafter dried over anhydrous magnesium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=98:2-85:15) to give methyl 3-(difluoromethoxy)-4-(trifluoromethyl)benzoate as a colorless oil (1.96 g).

reactant | methyl 3-hydroxy-4-(trifluoromethyl)benzoate | 2.00 g | OC=1C=C(C(=O)OC)C=CC1C(F)(F)F | C9H7F3O3
reactant | sodium chlorodifluoroacetate | 2.08 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(difluoromethoxy)-4-(trifluoromethyl)benzoate | 1.96 g | FC(OC=1C=C(C(=O)OC)C=CC1C(F)(F)F)F | C10H7F5O3
